US08497368B2
(E)-7-Fluoro-6-((6-(1-(2-phenylhydrazono)ethyl)imidazo[1,2-b]pyridazin-3-yl)methyl)-quinoline
The title compound was prepared from phenyl hydrazine and 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone in analogy to the synthesis of example 1 in 32% yield as a yellow solid. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.78 (s, 1H), 8.86 (dd, 1H), 8.32 (d, 1H), 7.98 (m, 3H), 7.78 (d, 1H), 7.61 (s, 1H), 7.47 (q, 1H), 7.30 (m, 4H), 6.83 (t, 1H), 4.57 (s, 2H), 2.31 (s, 3H). LCMS (method C): [MH]+=411, tR=4.57 min.

reactant | phenyl hydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)C(C)=O | C18H13FN4O
product | (E)-7-Fluoro-6-((6-(1-(2-phenylhydrazono)ethyl)imidazo[1,2-b]pyridazin-3-yl)methyl)-quinoline | 32% yield | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)/C(/C)=N/NC2=CC=CC=C2 | C24H19FN6
